US05723621
Preparation of 4-(4-propylcyclohexyl)-3',4'-difluorobiphenyl (compound (IIIl) in Table 2):
To 0.645 g (2 mmol) of 4-(4-propylcyclohexyl)-phenyltrimethoxysilane (Ih) was added 2.1 ml of TBAF (2.1 mmol, 1M in THF) under nitrogen, and the mixture was stirred at room temperature for 30 minutes. After the solvent was removed under reduced pressure, a solution of 3,4-difluorobromobenzene (0.463 g, 2.4 mmol) in toluene (1 ml) was added, followed by the addition of a suspension of tetrakis(triphenylphosphine)palladium(0) (0.116 g, 0.1 mmol) in toluene (3 ml). The resulting mixture was refluxed for 3 hours. After cooling, to the reaction mixture were added water and toluene. The organic layer was separated and the aqueous layer was extracted with toluene three times. The combined organic layer was dried over magnesium sulfate. After the magnesium sulfate was removed by filtration, the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (heptane) to obtain 0.594 g (40%) of white crystals.

reactant | 4-(4-propylcyclohexyl)-phenyltrimethoxysilane | 2 mmol, 0.645 g | C(CC)C1CCC(CC1)C1=CC=C(C=C1)[Si](OC)(OC)OC | C18H30O3Si
reactant | TBAF | 2.1 mmol, 1M, 2.1 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 3,4-difluorobromobenzene | 2.4 mmol, 0.463 g | FC=1C=C(C=CC1F)Br | C6H3BrF2
reactant | water | O | H2O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 0.116 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-propylcyclohexyl)-3',4'-difluorobiphenyl | 0.594 g, 40% | C(CC)C1CCC(CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C21H24F2
